US08754114B2
N-[(2S)-Tetrahydrofuran-2-ylmethyl]-2-(4-{3-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]imidazo[1,2-b]pyridazin-7-yl}phenyl)propanamide
This compound was prepared by using procedure analogous to those described for the synthesis of Example 98, Step 9 starting from 2-(4-{3-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]imidazo[1,2-b]pyridazin-7-yl}phenyl)propanoic acid and 1-[(25)-tetrahydrofuran-2-yl]methanamine. LCMS (M+H)+: m/z=567.3

reactant | 2-(4-{3-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]imidazo[1,2-b]pyridazin-7-yl}phenyl)propanoic acid | FC(CNC(=O)NC=1C=C(C=CC1)C1=CN=C2N1N=CC(=C2)C2=CC=C(C=C2)C(C(=O)O)C)(F)F | C24H20F3N5O3
reactant | 1-[(25)-tetrahydrofuran-2-yl]methanamine | O1[C@@H](CCC1)CN | C5H11NO
product | N-[(2S)-Tetrahydrofuran-2-ylmethyl]-2-(4-{3-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]imidazo[1,2-b]pyridazin-7-yl}phenyl)propanamide | O1[C@@H](CCC1)CNC(C(C)C1=CC=C(C=C1)C1=CC=2N(N=C1)C(=CN2)C2=CC(=CC=C2)NC(=O)NCC(F)(F)F)=O | C29H29F3N6O3
